US07842685B2
Synthesis of 3-fluoro-N-(2-methoxyethyl)-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide
The title compound was synthesized using the procedure described in Example 105 above, with 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (97 mg, 0.248 mmol) and 2-methoxyethylamine (26 μl, 0.298 mmol). MS (ESI) m/z: Calculated: 447.1; Observed: 448.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.248 mmol, 97 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | 2-methoxyethylamine | 0.298 mmol, 26 μl | COCCN | C3H9NO
product | 3-fluoro-N-(2-methoxyethyl)-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide | FC=1C=C(C(=O)NCCOC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C25H22FN3O2S
